US06683095B2
Synthesis of (E)-3-[4-(benzyloxy)phenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (100 mg, 0.51 mmol) and 4-benzyloxybenzaldehyde (100 mg, 0.47 mol) were reacted according to the same procedure as Preparation 1 to give 150 mg (Yield 75%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 0.51 mmol, 100 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 4-benzyloxybenzaldehyde | 0.47 mol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
product | (E)-3-[4-(benzyloxy)phenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 150 mg, Yield 75% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C23H19NO5
